US04250174
2-(Methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine (0.75 gm.) is added to a solution of 50% aqueous dimethylamine (0.215 gm., 37% formaldehyde (0.19 gm.) and acetic acid (0.35 g.) and heated at 50° C. for 3 hours. After cooling, the reaction mixture is diluted with aqueous sodium bicarbonate and the resultant precipitate is collected by filtration. After drying, the crude product is recrystallized from ethyl acetate to yield 3-(dimethylaminomethyl)-2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine m.p. 172°-175° C.

reactant | 2-(Methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | 0.75 gm | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C15H13N3O2S
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | 0.19 gm | C=O | CH2O
reactant | acetic acid | 0.35 g | C(C)(=O)O | C2H4O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-(dimethylaminomethyl)-2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | CN(C)CC1=C(N=C2N1C=C(C=C2)SC2=CC=CC=C2)NC(=O)OC | C18H20N4O2S
